US06642389B2
In analogy to the procedure described in example 17 a], [rac]-3-(3-allyl-4-hydroxy-naphthalen-1-yl)-2-ethoxy-propionic acid ethyl ester was reacted with 2-(5-methyl-2-phenyl-oxazole-4yl)-ethanol in tetrahydrofuran in the presence of triphenylphosphine and DBAD (di-tert-butyl azodicarboxylate) to yield [rac]-3-{3-allyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-naphthalen-1-yl}-2-ethoxy-propionic acid ethyl ester, which was further saponified in analogy to the procedure described in example 91 e] to yield [rac]-3-{3-allyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-naphthalen-1-yl}-2-ethoxy-propionic acid as colorless solid.

reactant | [rac]-3-(3-allyl-4-hydroxy-naphthalen-1-yl)-2-ethoxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C2=CC=CC=C12)O)CC=C)OCC)=O | C20H24O4
reactant | 2-(5-methyl-2-phenyl-oxazole-4yl)-ethanol | CC1=C(N=C(O1)C1=CC=CC=C1)CCO | C12H13NO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DBAD | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [rac]-3-{3-allyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-naphthalen-1-yl}-2-ethoxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C2=CC=CC=C12)OCCC=1N=C(OC1C)C1=CC=CC=C1)CC=C)OCC)=O | C32H35NO5
